US06759554B2
N-(3-Aminomethylphenyl)-2-piperidone
A Schlenk tube was charged with CuI (9.6 mg, 0.050 mmol, 5.0 mol %), δ-valerolactam (120 mg, 1.21 mmol), K3PO4 (430 mg, 2.03 mmol), briefly evacuated and backfilled with argon. N,N′-Dimethylethylenediamine (11 μL, 0.10 mmol, 10 mol %), 3-iodobenzylamine (134 μL, 1.01 mmol), and toluene (1.0 mL) were added under argon. The Schlenk tube was sealed with a Teflon valve and the reaction mixture was stirred at 100° C. for 18 h. The resulting pale yellow suspension was allowed to reach room temperature, and then 30% aq ammonia (1 mL) and water (10 mL) were added. The biphasic mixture was extracted with CH2Cl2 (3×15 mL). The combined organic phases were dried (Na2SO4), concentrated, and the residue was purified by flash chromatography on silica gel (2×15 cm; CH2Cl2 (saturated with 30% aq ammonia)-CH2Cl2-MeOH 10:10:1; 15 mL fractions). Fractions 14-19 provided 199 mg (96% yield) of the product as a pale yellow oil.

reactant | δ-valerolactam | 1.21 mmol, 120 mg | C1(CCCCN1)=O | C5H9NO
reactant | K3PO4 | 2.03 mmol, 430 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | N,N′-Dimethylethylenediamine | 0.10 mmol, 11 μL | CNCCNC | C4H12N2
reactant | 3-iodobenzylamine | 1.01 mmol, 134 μL | IC=1C=C(CN)C=CC1 | C7H8IN
reactant | ammonia | 1 mL | N | H3N
catalyst | CuI | 0.050 mmol, 9.6 mg | [Cu]I
solvent | water | 10 mL | O | H2O
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-Aminomethylphenyl)-2-piperidone | 199 mg, 96% yield | NCC=1C=C(C=CC1)N1C(CCCC1)=O | C12H16N2O
